US05576321
Preparation of 6-trifluoromethyl-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole
The title compound was prepared in a fashion similar to that described in Preparation 30 from 6-trifluoromethylindole (4.0 g, 22 mmol) and 4-piperidone hydrochloride hydrate (6.6 g, 43 mmol). The product was isolated as a white solid. Yield 3.7 g (64%). mp °C. FDMS m/e=266 (M+ of free base).

reactant | 6-trifluoromethylindole | 22 mmol, 4.0 g | FC(C1=CC=C2C=CNC2=C1)(F)F | C9H6F3N
reactant | 4-piperidone hydrochloride hydrate | 43 mmol, 6.6 g | O.Cl.N1CCC(CC1)=O
product | 6-trifluoromethyl-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | FC(C1=CC=C2C(=CNC2=C1)C=1CCNCC1)(F)F | C14H13F3N2
